US08030500B2
1-(3-Bromophenyl)-4-fluoro-1-(6-methoxy-5-(trifluoromethyl)pyridin-3-yl)-1H-isoindol-3-amine
The title compound was synthesized as described for Example 14i in 71% yield, starting from N-((3-bromophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide (815 mg, 2 mmol) and 5-iodo-2-methoxy-3-(trifluoromethyl)pyridine (606 mg, 2 mmol).

reactant | N-((3-bromophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide | 2 mmol, 815 mg | BrC=1C=C(C=CC1)C(=NS(=O)C(C)(C)C)C1=C(C(=CC=C1)F)C#N | C18H16BrFN2OS
reactant | 5-iodo-2-methoxy-3-(trifluoromethyl)pyridine | 2 mmol, 606 mg | IC=1C=C(C(=NC1)OC)C(F)(F)F | C7H5F3INO
product | 1-(3-Bromophenyl)-4-fluoro-1-(6-methoxy-5-(trifluoromethyl)pyridin-3-yl)-1H-isoindol-3-amine | 71% yield | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C=1C=NC(=C(C1)C(F)(F)F)OC | C21H14BrF4N3O
